US04837333
A solution of 2,2-Dimethylpropane (15.1 g, 0.10 mol) in dry tetrahydrofuran (80 ml) was added dropwise to a mixture of magnesium turnings (2.43 g, 0.10 mol) in dry tetrahydrofuran (20 ml) containing a single crystal of iodine, at such a rate so as to maintain the solvent at reflux. The resulting solution was allowed to cool to room temperature and decanted from the residual magnesium under nitrogen into a fresh flask. The solution was diluted with dry tetrahydrofuran (150 ml), cooled to -20° C. under an atmosphere of nitrogen treated with cuprous bromide dimethyl sulphide complex and stirred for 20 minutes. The resulting solution was then treated with 4-bromo-1-butene (13.5 g, 0.10 mol) and stirred at -20° C. for 16 hours and then at 20° C. for 4 hours. The reaction mixture as quenched with saturated aqueous ammonium chloride solution (10 ml), diluted with ether (200 ml) and washed with an aqueous solution of ammonia (2×200 ml of 10%). The solution was dried over sodium sulfate and distilled at atmospheric pressure to yield 6,6-dimethyl- 1-heptene as a colourless oil, having a boiling point of 120°-125° C., and the following structural characteristics:

reactant | 2,2-Dimethylpropane | 0.10 mol, 15.1 g | CC(C)(C)C | C5H12
reactant | magnesium | 0.10 mol, 2.43 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-bromo-1-butene | 0.10 mol, 13.5 g | BrCCC=C | C4H7Br
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6,6-dimethyl- 1-heptene | CC(CCCC=C)(C)C | C9H18
